US08486967B2
c) 1-(3-Methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-one
To a solution of 8-(3-methyl-[1,2,4]thiadiazol-5-yl)-1,4-dioxa-8-aza-spiro[4.5]decane (1.75 g, 7 mmol) in acetone (15 mL) was added 2 N aqueous HCl solution (50 mL) and stirred at 50° C. for 3 hours. The reaction mixture was cooled to 0° C. and saturated aqueous NaHCO3 solution was added dropwise until pH 7. The aqueous phase was extracted three times with dichloromethane, the combined organic phases were dried over sodium sulfate and the solvent was evaporated to give the title compound as a light brown solid (1.29 g, 90%).

reactant | 8-(3-methyl-[1,2,4]thiadiazol-5-yl)-1,4-dioxa-8-aza-spiro[4.5]decane | 7 mmol, 1.75 g | CC1=NSC(=N1)N1CCC2(OCCO2)CC1 | C10H15N3O2S
reactant | HCl | 2 N, 50 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 1-(3-Methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-one | 1.29 g, 90% | CC1=NSC(=N1)N1CCC(CC1)=O | C8H11N3OS
